US04348264
According to the procedures detailed in Example 3, benzhydryl 2-methyl-1-oxo-6-(2-phenoxyacetamido)carbapenam-3-carboxylate (138 mg., 0.28 mmole) in 15 ml. of methylene chloride was reduced with tetrabutylammonium borohydride (18 mg., 0.07 mmole) at -78° C., monitored and isolated as a washed, dried methylene chloride solution of benzhydryl 1-hydroxy-2-methyl-6-(2-phenoxyacetamido)carbapenam-3-carboxylate [Rf 0.24 (4:1 chloroform:ethyl acetate)]. If desired, the product is further isolated by evaporation to dryness in vacuo.

reactant | benzhydryl 2-methyl-1-oxo-6-(2-phenoxyacetamido)carbapenam-3-carboxylate | 0.28 mmole, 138 mg | CC1C([C@H]2N(C1C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)C(C2NC(COC2=CC=CC=C2)=O)=O)=O | C29H26N2O6
reactant | tetrabutylammonium borohydride | 0.07 mmole, 18 mg | [BH4-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | benzhydryl 1-hydroxy-2-methyl-6-(2-phenoxyacetamido)carbapenam-3-carboxylate | OC1C(C(N2[C@H]1C(C2=O)NC(COC2=CC=CC=C2)=O)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C | C29H28N2O6
